US08623889B2
4-bromo-5-methyl-1H-pyrazolo[3,4-c]pyridine
To a solution of 5-bromo-4,6-dimethylpyridin-3-amine (1.00 g, 4.98 mmol) in acetic acid (12 mL) at ambient temperature was added sodium nitrite (364 mg, 5.28 mmol) and the mixture heated to 60° C. for 1.5 hr. The cooled reaction mixture was concentrated in vacuo, the residue partitioned between ethyl acetate and saturated aqueous sodium bicarbonate and the biphasic mixture filtered through a celite pad. The separated aqueous phase was extracted with ethyl acetate, and the combined organic phases washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography (silica, ISCO, 10-100% ethyl acetate in heptane) to afford the title compound as a pale brown solid (554 mg, 53%). 1H NMR (300 MHz, DMSO) δ 13.91 (s, 1H), 8.95 (s, 1H), 8.14 (s, 1H), 2.67 (s, 3H). LCMS: M+H+=212 & 214.

reactant | 5-bromo-4,6-dimethylpyridin-3-amine | 4.98 mmol, 1.00 g | BrC=1C(=C(C=NC1C)N)C | C7H9BrN2
reactant | sodium nitrite | 5.28 mmol, 364 mg | N(=O)[O-].[Na+]
solvent | acetic acid | 12 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-5-methyl-1H-pyrazolo[3,4-c]pyridine | 554 mg, 53% | BrC1=C2C(=CN=C1C)NN=C2 | C7H6BrN3
